US07825253B2
N5-(6-Chloro-pyridin-3-yl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=365.0 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline (CAS 455955-26-7), 5-methyl-2-furanmethanamine and 5-amino-2-chloropyridine.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 5-amino-2-chloropyridine | NC=1C=CC(=NC1)Cl | C5H5ClN2
product | N5-(6-Chloro-pyridin-3-yl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | ClC1=CC=C(C=N1)NC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C20H17ClN4O
